US05270331
{1-[(1-Carbamoyl-6-chloro-5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidene)-thiophen-2-ylmethoxy]-ethoxycarbonyloxy}-N,N-dimethylacetamide
The tetrabutylammonium salt of 3-[hydroxy-(2-thienyl)methylene]-6-chloro-5-fluoro-2,3-dihydro-2-oxo-1H-indole-1-carboxamide (6.25 g) and N, N-dimethyl-(1-iodoethoxy)carbonyloxyacetamide (5.55 g) were combined in 60 mL of acetone, and the solution stirred for 90 hr. at 20° C. The precipitate present was removed by filtration and dried in vacuo. The solids were chromatographed on silica gel, eluting with 90:10 chloroform:acetone. Fractions containing the title product were combined and evaporated. The residue was slurried with a small amount of ethyl ether and filtered to give 820 mg of yellow solid, mp 194.5°-195.5° C.

reactant | 3-[hydroxy-(2-thienyl)methylene]-6-chloro-5-fluoro-2,3-dihydro-2-oxo-1H-indole-1-carboxamide | 6.25 g | OC(=C1C(N(C2=CC(=C(C=C12)F)Cl)C(=O)N)=O)C=1SC=CC1 | C14H8ClFN2O3S
reactant | N, N-dimethyl-(1-iodoethoxy)carbonyloxyacetamide | 5.55 g | CN(C(COC(=O)OC(C)I)=O)C | C7H12INO4
solvent | acetone | 60 mL | CC(=O)C | C3H6O
product | {1-[(1-Carbamoyl-6-chloro-5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidene)-thiophen-2-ylmethoxy]-ethoxycarbonyloxy}-N,N-dimethylacetamide | 820 mg | C(N)(=O)N1C(C(C2=CC(=C(C=C12)Cl)F)=C(OC(C)OC(=O)OCC(=O)N(C)C)C=1SC=CC1)=O | C21H19ClFN3O7S
